US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.477 g, 4.18 mmol), 2-chloro-4-(pyridin-2-ylthio)pyridine (0.930 g, 4.18 mmol), potassium phosphate (0.975 g, 4.59 mmol), Pd2(dba)3 (0.191 g, 0.209 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.121 g, 0.209 mmol) were reacted to provide 4-methyl-N-(4-(pyridin-2-ylthio)pyridin-2-yl)thiazol-2-amine hydrochloride (0.310 g, 44% yield). 1H NMR (d6-DMSO) δ 11.55 (bs, 1H), 8.62 (d, 1H), 8.31 (d, 1H), 7.89 (t, 1H), 7.59 (d, 1H), 7.44 (m, 1H), 7.36 (s, 1H), 7.08 (d, 1H), 6.83 (s, 1H), 2.31 (s, 3H).

reactant | 4-methylthiazol-2-amine | 4.18 mmol, 0.477 g | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(pyridin-2-ylthio)pyridine | 4.18 mmol, 0.930 g | ClC1=NC=CC(=C1)SC1=NC=CC=C1 | C10H7ClN2S
reactant | potassium phosphate | 4.59 mmol, 0.975 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.209 mmol, 0.121 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | Pd2(dba)3 | 0.209 mmol, 0.191 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-methyl-N-(4-(pyridin-2-ylthio)pyridin-2-yl)thiazol-2-amine hydrochloride | 0.310 g, 44% yield | Cl.CC=1N=C(SC1)NC1=NC=CC(=C1)SC1=NC=CC=C1 | InChI=1S/C14H12N4S2.ClH/c1-10-9-19-14(17-10)18-12-8-11(5-7-15-12)20-13-4-2-3-6-16-13;/h2-9H,1H3,(H,15,17,18);1H
